US08133899B2
Preparation 8 [trans-4-(Methylamino)cyclohexyl]methanol
Vitride solution (65%, 767 ml, 2.465 mol) was added dropwise over 1 h to a solution of trans-4-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid (commercially available, 100 g, 0.4109 mol) in toluene (1 l). After the addition was complete the reaction mixture was heated to reflux for 100-1.10° C. The reaction mixture was quenched with aq. Sodium sulphate solution (800 ml) at temperatures below 10° C. The reaction mixture was filtered through celite and the filter cake washed with DCM (500 ml) followed by water (100 ml). The organics layer was separated and the aqueous layer extracted twice with DCM (600 ml then 400 ml). The combined organics layers were dried over sodium sulphate and concentrated in vacuo to give the title compound (62 g).

reactant | Vitride | 2.465 mol, 767 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | trans-4-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | [trans-4-(Methylamino)cyclohexyl]methanol | 62 g | CN[C@@H]1CC[C@H](CC1)CO | C8H17NO
